US04032535
Preparation of 6-(2-Chlorophenyl)-8-hydroxyamino-1-methyl-4H-S-triazolo[4,3-a][1,4]benzodiazepine
A mixture of 3.55 g (0.01 m) of 6-(2-chlorophenyl)-1-methyl-8-nitro-4H-s-triazolo[4,3-a][1,4]benzodiazepine, 200 ml of tetrahydrofuran, 100 ml of methanol, 13.6 g of sodium acetate trihydrate and 12 g of stannous chloride dihydrate was stirred at room temperature for 1 hr under nitrogen atmosphere. After addition of 5 ml of conc. aqueous ammonia the inorganic material was separated by filtration over celite. The filter cake was washed with 500 ml of methylene chloride containing 20% of ethanol. The filtrate was evaporated and the residue was stirred with 100 ml of water and 30 ml of methylene chloride. The crystalline material was collected and washed successively with water, ethanol and ether to yield the above-named product. For analysis it was recrystallized from tetrahydrofuran/methanol, mp. 276°-278° dec.

reactant | 6-(2-chlorophenyl)-1-methyl-8-nitro-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 3.55 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)[N+](=O)[O-])C(=NN2)C | C17H12ClN5O2
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | sodium acetate trihydrate | 13.6 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | ammonia | 5 ml | N | H3N
solvent | methanol | 100 ml | CO | CH4O
product | 6-(2-Chlorophenyl)-8-hydroxyamino-1-methyl-4H-S-triazolo[4,3-a][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)NO)C(=NN2)C | C17H14ClN5O
